US09212187B2
3-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridine-2-carbonitrile
2-Chloro-3-({(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridine (0.3 g), zinc cyanide(120 mg), tris(dibenzylideneacetone)dipalladium(24 mg), 1,1′-bis(diphenylphosphino)ferrocene(14 mg), and zinc powder(3.4 mg) were added to DMF(3 ml), and the mixture was heated at 95° C. for 3 hours. The reaction liquid was cooled to room temperature. Water was added to the reaction mixture and subjected to celite filtration. Extraction with ethyl acetate was performed. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=93:7). The purified product was condensed under reduced pressure, and the residue was recrystallized from ether to give the title compound(1.35 g) as a white powder.

reactant | 2-Chloro-3-({(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridine | 0.3 g | ClC1=NC=CC=C1CN(CCN1C(C2=C(C=C1)OC(=C2)C)=O)CC2=CC1=C(N(C(C(C(N1C)=O)(C)C)=O)CC)C=C2 | C31H34ClN5O4
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 120 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 14 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc | 3.4 mg | [Zn] | Zn
solvent | Water | O | H2O
product | 3-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridine-2-carbonitrile | 1.35 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C=C2)OC(=C1)C)=O)CC=1C(=NC=CC1)C#N | C32H34N6O4
